US06977262B2
Ethyl 4-(2,3-dimethoxyphenyl)-4,7-dihydro-6-propyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate
The title compound was prepared from 2,3-dimethoxybenzaldehyde, 3-aminopyrazole and ethyl 3-ketohexanoate in the same manner as in Example 25.

reactant | 2,3-dimethoxybenzaldehyde | COC1=C(C=O)C=CC=C1OC | C9H10O3
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | ethyl 3-ketohexanoate | O=C(CC(=O)OCC)CCC | C8H14O3
product | Ethyl 4-(2,3-dimethoxyphenyl)-4,7-dihydro-6-propyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate | COC1=C(C=CC=C1OC)C1C=2C(NC(=C1C(=O)OCC)CCC)=NNC2 | C20H25N3O4
